US07148218B2
r) Preparation of (2R,3S,4R,5S,6S,7Z)-5-[(aminocarbonyl)oxy]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N-[(2S,3S,4S,5Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2,4-dimethyl-7-oxo-5-heptenyl]-N,2,4,6-tetramethyl-7,9-decadienamide.
To a solution of Dess-Martin periodinane (199 mg, 0.47 mmol) and CH2Cl2 (4 mL) at room temperature, is added a solution of (2R,3S,4R,5S,6S,7Z)-5-[(aminocarbonyl)oxy]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N-[(2S,3S,4S,5Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-7-hydroxy-2,4-dimethyl-5-heptenyl]-N,2,4,6-tetramethyl-7,9-decadienamide (200 mg, 0.29 mmol) and CH2Cl2 (1 mL). After stirring at room temperature for 1 h, the mixture is quenched by adding saturated NaHCO3 (1 mL) followed by saturated Na2S2O3 (1 mL). This mixture is then stirred at room temperature for 30 min, and then extracted with CH2Cl2 (4×10 mL). The combined organic layers are then dried (Na2SO4), concentrated in vacuo, and then chromatographed (silica gel eluted with hexane/EtOAc 90/10) to give the desired compound (150 mg, 75.2%) as a colorless glassy solid.

reactant | Dess-Martin periodinane | 0.47 mmol, 199 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (2R,3S,4R,5S,6S,7Z)-5-[(aminocarbonyl)oxy]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N-[(2S,3S,4S,5Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-7-hydroxy-2,4-dimethyl-5-heptenyl]-N,2,4,6-tetramethyl-7,9-decadienamide | 0.29 mmol, 200 mg | NC(=O)O[C@H]([C@H]([C@@H]([C@H](C(=O)N(C)C[C@@H]([C@H]([C@H](\C=C/CO)C)O[Si](C)(C)C(C)(C)C)C)C)O[Si](C)(C)C(C)(C)C)C)[C@H](\C=C/C=C)C | C36H70N2O6Si2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S,4R,5S,6S,7Z)-5-[(aminocarbonyl)oxy]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N-[(2S,3S,4S,5Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2,4-dimethyl-7-oxo-5-heptenyl]-N,2,4,6-tetramethyl-7,9-decadienamide | 150 mg, 75.2% | NC(=O)O[C@H]([C@H]([C@@H]([C@H](C(=O)N(C)C[C@@H]([C@H]([C@H](\C=C/C=O)C)O[Si](C)(C)C(C)(C)C)C)C)O[Si](C)(C)C(C)(C)C)C)[C@H](\C=C/C=C)C | C36H68N2O6Si2
